US07425658B2
Nitrogen gas was introduced downflow to a 1″×18″ 316 s.s. hot tube reactor system containing 67 ml of silicon carbide (SiC) at a total rate of 6.2 ml/min. The hot tube reactor was heated to 450° C. at which time 1-methoxyoctane (MO), obtained from hydrogenation of 1-methoxy-2,7-octadiene, was added downflow at 0.1 ml/min. Under these conditions 1-methoxyoctane was converted to a mixture of 1-octene and mixed internal octenes at 3.3% wt conversion with a selectivity to 1-octene of 10 m % and mixed internal octenes of 90 m %.

reactant | silicon carbide | 67 ml | [C-]#[Si+] | CSi
reactant | 1-methoxyoctane | COCCCCCCCC | C9H20O
product | 1-methoxy-2,7-octadiene | COCC=CCCCC=C | C9H16O
